US04663319
Ethyl (N-benzylcarbamoyl)acetate (39.00 g) and carbon disulfide (14.03 g) are dissolved in dimethylsulfoxide (390 ml). A solution of potassium hydroxide (21.52 g) in water (39 ml) is added dropwise to the mixture at 20° to 40° C. The mixture is stirred at the same temperature for 30 minutes, and then cis-1,2-dichloroethylene (17.84 g) is added dropwise thereto. The mixture is stirred at 50° C. for 5 hours. Cis-1,2-dichloroethylene (3.24 g) is further added to the mixture 3 hours after the commencement of the reaction. After cooling, the mixture is poured into water, and the aqueous solution is extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate=2:1), and then recrystallized from a mixture of n-hexane and ethyl acetate, whereby ethyl 2-(1,3-dithiol-2-ylidene)-2-(N-benzylcarbamoyl)acetate (33.77 g) is obtained as pale yellow prisms. Yield: 62.8%.

reactant | Ethyl (N-benzylcarbamoyl)acetate | 39.00 g | C(C1=CC=CC=C1)NC(=O)CC(=O)OCC | C12H15NO3
reactant | carbon disulfide | 14.03 g | C(=S)=S | CS2
reactant | potassium hydroxide | 21.52 g | [OH-].[K+]
reactant | cis-1,2-dichloroethylene | 17.84 g | Cl\C=C/Cl | C2H2Cl2
reactant | Cis-1,2-dichloroethylene | 3.24 g | Cl\C=C/Cl | C2H2Cl2
solvent | dimethylsulfoxide | 390 ml | CS(=O)C | C2H6OS
solvent | water | 39 ml | O | H2O
product | ethyl 2-(1,3-dithiol-2-ylidene)-2-(N-benzylcarbamoyl)acetate | 33.77 g, Yield: 62.8% | S1C(SC=C1)=C(C(=O)OCC)C(NCC1=CC=CC=C1)=O | C15H15NO3S2
